US06696487B2
Water is added to a mixture consisting of 3-methyl-4-nitrobenzhydrazide (3.9 g), triethylamine (3 ml) and 2,2-dimethylpropanoyl chloride (2.6 ml) in dichloromethane (120 ml) stirred for 2 h. After drying, evaporation and trituration of the organic phase in petroleum ether, N′-(2,2-dimethylpropanoyl)-3-methyl-4-nitrobenzhydrazide is obtained in the form of a precipitate.

reactant | Water | O | H2O
reactant | 3-methyl-4-nitrobenzhydrazide | 3.9 g | CC=1C=C(C(=O)NN)C=CC1[N+](=O)[O-] | C8H9N3O3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylpropanoyl chloride | 2.6 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N′-(2,2-dimethylpropanoyl)-3-methyl-4-nitrobenzhydrazide | CC(C(=O)NNC(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)(C)C | C13H17N3O4
